### PR TITLE
Fix task enabling FPU for itself

### PR DESCRIPTION
**Pull request by corlewis**
Restore the FPU immediately when setting the TCB flag to enabled if it is the current thread. Otherwise the FPU would stay disabled, as switch_to_thread would not be called.

Test with: https://github.com/seL4/seL4/pull/1574

### CODE REVIEW

File: proof/crefine/AARCH64/Tcb_C.thy [hunk 1]
```diff
@@ -4505,6 +4505,35 @@ lemma decodeSetTLSBase_ccorres:
...
+  apply (clarsimp simp: isFlagSet_def typ_heap_simps' word_bw_comms ctcb_relation_def
+                        option_to_ctcb_ptr_def)
+  done
+
+crunch lazyFpuRestore
+  for st_tcb_at'[wp]: "\<lambda>s. P (st_tcb_at' Q p s)"
+  and sch_act_wf[wp]: "\<lambda>s. sch_act_wf (ksSchedulerAction s) s"
+  and aligned'[wp]: "pspace_aligned'"
+  and distinct'[wp]: "pspace_distinct'"
+
```
Comment (Indanz) [inline proof/crefine/AARCH64/Tcb_C.thy:4536]: This bit is exactly the same as for X86, I suppose there is no easy way of avoiding the duplication?

Comment (Xaphiosis) [reply proof/crefine/AARCH64/Tcb_C.thy:4536]: We wish, but no. For the C refinement we don't really have an arch-splitting story, and even for higher abstraction levels we still don't have a "arches with FPU" wrapper (AARCH64 and X64 are the only ones with FPU currently).

File: proof/invariant-abstract/AARCH64/ArchFPU_AI.thy [hunk 2]
```diff
@@ -234,6 +225,21 @@ lemma option_update_thread_no_etcb_change_cur_fpu_in_cur_domain:
...
 
+lemma arch_post_set_flags_in_cur_domain[wp]:
+  "\<lbrace>cur_fpu_in_cur_domain and (\<lambda>s. in_cur_domain (cur_thread s) s)\<rbrace>
+   arch_post_set_flags t flags
+   \<lbrace>\<lambda>_. cur_fpu_in_cur_domain\<rbrace>"
+  unfolding arch_post_set_flags_def
+  by wpsimp
+
+lemma set_flags_in_cur_domain[wp]:
+  "set_flags param_a param_b \<lbrace>in_cur_domain t\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchFPU_AI.thy]: crunch?

Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchFPU_AI.thy]: if not, maybe better var names `t flags` as above

**Review by Xaphiosis — APPROVED** [review]
One minor nitpick, looks good otherwise!

**Review by lsf37 — APPROVED** [review]
All good from my side. 

Also good to see that this is contained to just functional correctness. For a second I was afraid this would have infoflow/access control impact.

File: proof/invariant-abstract/AARCH64/ArchFPU_AI.thy (hunk 2 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchFPU_AI.thy]: Thanks for spotting, definitely should have better var names.

The proof here isn't following the usual crunch pattern, due to unfolding the property definition and not wanting to recurse through any other functions. I could probably turn it into a crunch with the right ignores and wp and simp rules, but I don't think it would even save a line and it would probably make it harder to see what is happening.

File: proof/crefine/AARCH64/Tcb_C.thy (hunk 1 above)
Comment (corlewis) [reply proof/crefine/AARCH64/Tcb_C.thy:4536]: We don't have time to do it now but there actually is a plausible way for us to make this generic. The FPU code is self-contained enough that we could wrap it in `if (config_set(CONFIG_HAVE_FPU))` instead of ifdefs. If we're careful with the proofs this would then allow us to treat FPU being supported as a generic feature in the same way the code does, instead of tying it to architectures like the specifications and proofs currently do.
